US05922771
2,2,2-Trifluoro-N-[2-(6-bromo-5-methoxy-1H-inden-3-yl)-ethyl]acetamide
To a solution of 2-(6-bromo-5-methoxy-1H-inden-3-yl)ethylamide hydrochloride (1.2 g, 3.94 mmol) and triethylamine (1.2 g, 11.8 mmol) in tetrahydrofuran (20 ml) was added trifluoroacetic anhydride (0.99 g, 4.73 mmol) dropwise under ice-cooling and the mixture was stirred at room temperature for 2 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed serially with saturated saline and water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=15:85) and recrystallized from ethyl acetate-hexane to provide the title compound (yield 1.06 g, 74%).

reactant | 2-(6-bromo-5-methoxy-1H-inden-3-yl)ethylamide hydrochloride | 3.94 mmol, 1.2 g | Cl.BrC1=C(C=C2C(=CCC2=C1)CC[NH-])OC
reactant | triethylamine | 11.8 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 4.73 mmol, 0.99 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2,2,2-Trifluoro-N-[2-(6-bromo-5-methoxy-1H-inden-3-yl)-ethyl]acetamide | yield 1.06 g, 74% | FC(C(=O)NCCC1=CCC2=CC(=C(C=C12)OC)Br)(F)F | C14H13BrF3NO2
